US07842694B2
3-[(1-Methylethyl)oxy]-N-(3-methyl-1,2,4-thiadiazol-5-yl)-5-[(phenylmethyl)oxy]benzamide
DMF (2 drops) was added to a solution of 3-[(1-methylethyl)oxy]-5-[(phenylmethyl)oxy]benzoic acid (29.6 g, 0.103 mol) and oxalyl chloride (10.78 mL, 0.12 mol) in DCM (500 mL) The mixture was stirred at ambient temperature for 4 hours and the DCM and excess oxalyl chloride removed in vacuo. The residual acid chloride was dissolved in DCM (220 mL) and added dropwise to 5-amino-3-methyl-1,2,4-thiadiazole (12.43 g, 0.108 mol) and triethylamine (30.34 mL, 0.216 mol) in DCM (220 mL), at 0° C. The reaction was allowed to warm and stirred at ambient temperature for 72 hours. The DCM was removed in vacuo, and the residue partitioned between ethyl acetate (400 mL) and 1N hydrochloric acid (200 mL). The ethyl acetate layer was washed sequentially with saturated aqueous sodium hydrogen carbonate (200 mL) and brine (100 mL), dried (MgSO4) and concentrated in vacuo. The residue was chromatographed on silica, eluting with a gradient of 20% ethyl acetate in isohexane, to give the desired compound (33 g).

reactant | 3-[(1-methylethyl)oxy]-5-[(phenylmethyl)oxy]benzoic acid | 0.103 mol, 29.6 g | CC(C)OC=1C=C(C(=O)O)C=C(C1)OCC1=CC=CC=C1 | C17H18O4
reactant | oxalyl chloride | 0.12 mol, 10.78 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-amino-3-methyl-1,2,4-thiadiazole | 0.108 mol, 12.43 g | NC1=NC(=NS1)C | C3H5N3S
reactant | triethylamine | 0.216 mol, 30.34 mL | C(C)N(CC)CC | C6H15N
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 220 mL | C(Cl)Cl | CH2Cl2
product | 3-[(1-Methylethyl)oxy]-N-(3-methyl-1,2,4-thiadiazol-5-yl)-5-[(phenylmethyl)oxy]benzamide | 33 g | CC(C)OC=1C=C(C(=O)NC2=NC(=NS2)C)C=C(C1)OCC1=CC=CC=C1 | C20H21N3O3S
